### PR TITLE
[Merged by Bors] - feat: `Irrational π`

### PR DESCRIPTION
**Pull request by eric-wieser**
This contains a port of @b-mehta's https://github.com/leanprover-community/mathlib3/commits/irrational-pi branch, with the conversion to Lean 4 performed by @b-mehta with his google hat on.

My contributions here are minimal! 

Co-authored-by: Bhavik Mehta <bhavikmehta8@gmail.com>
Co-authored-by: Bhavik Mehta <bhavikmehta@google.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
bot fix style

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 1]
```diff
@@ -0,0 +1,248 @@
...
+  | 0 => C 2
+  | 1 => C 4
+  | (n+2) => ((2 : ℤ) * (2 * n + 3)) • sinPoly (n + 1) + monomial 2 (-4) * sinPoly n
+
+private def cosPoly : ℕ → Polynomial ℤ
+  | 0 => 0
+  | 1 => monomial 1 (-4)
+  | (n+2) => ((2 : ℤ) * (2 * n + 3)) • cosPoly (n + 1) + monomial 2 (-4) * cosPoly n
+
+
```
Comment (vihdzp) [inline Mathlib/Data/Real/Pi/Irrational.lean:119]:
```suggestion
```

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 2]
```diff
@@ -0,0 +1,248 @@
...
+  constructor <;>
+  nlinarith
+
+private lemma my_tendsto_pow_div_factorial_at_top (a : ℝ) :
+  Tendsto (fun n => (a : ℝ) ^ (2 * n + 1) / n !) atTop (nhds 0) := by
+  rw [← mul_zero a]
+  refine ((tendsto_pow_div_factorial_atTop (a ^ 2)).const_mul a).congr (fun x => ?_)
+  rw [← pow_mul, mul_div_assoc', _root_.pow_succ']
+
+private lemma not_irrational.exists_rep {x : ℝ} :
```
Comment (vihdzp) [inline Mathlib/Data/Real/Pi/Irrational.lean:207]: This feels useful enough to be somewhere else.

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 3]
```diff
@@ -0,0 +1,248 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bhavik Mehta
+-/
+import Mathlib.Analysis.SpecialFunctions.Integrals
+import Mathlib.Data.Real.Irrational
+
+/-!
+# `Real.pi` is irrational
+
+The main result of this file is `irrational_pi`.
```
Comment (vihdzp) [inline Mathlib/Data/Real/Pi/Irrational.lean:12]: Can this docstring explain the main proof ideas?

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 4]
```diff
@@ -0,0 +1,248 @@
...
+  let u₁' (x : ℝ) : ℝ := - (2 * (n + 1) * x * f x ^ n)
+  let v₁ (x : ℝ) : ℝ := sin (x * θ)
+  let v₁' (x : ℝ) : ℝ := cos (x * θ) * θ
+  let u₂ (x : ℝ) : ℝ := x * (f x) ^ n
+  let u₂' (x : ℝ) : ℝ := (f x) ^ n - 2 * n * x ^ 2 * (f x) ^ (n - 1)
+  let v₂ (x : ℝ) : ℝ := cos (x * θ)
+  let v₂' (x : ℝ) : ℝ := -sin (x * θ) * θ
+  have hfd : Continuous f := continuous_const.sub (continuous_pow 2)
+  have hu₁d : Continuous u₁' := ((continuous_mul_left _).mul (hfd.pow _)).neg
+  have hv₁d : Continuous v₁' := (continuous_cos.comp (continuous_mul_right _)).mul continuous_const
```
Comment (grunweg) [inline Mathlib/Data/Real/Pi/Irrational.lean:43]: Can `fun_prop` solve some of these? (Sorry, can't check myself right now - my internet connection is bad.)

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 5]
```diff
@@ -0,0 +1,248 @@
...
+  have hu₂d : Continuous u₂' :=
+    (hfd.pow _).sub ((continuous_const.mul (continuous_pow 2)).mul (hfd.pow _))
+  have hv₂d : Continuous v₂' :=
+    (continuous_sin.comp (continuous_mul_right _)).neg.mul continuous_const
+  have hu₁_eval_one : u₁ 1 = 0 := by simp only [u₁, f]; simp
+  have hu₁_eval_neg_one : u₁ (-1) = 0 := by simp only [u₁, f]; simp
+  have t : u₂ 1 * v₂ 1 - u₂ (-1) * v₂ (-1) = 2 * (0 ^ n * cos θ) := by
+    simp only [u₂, v₂, f, one_pow, sub_self, one_mul, neg_one_sq, neg_mul, cos_neg, sub_neg_eq_add]
+    simp only [← two_mul]
+  have hf : ∀ x, HasDerivAt f (- 2 * x) x := by
```
Comment (grunweg) [inline Mathlib/Data/Real/Pi/Irrational.lean:53]: I'm not sure if fun_prop is meant to solve these already, or that was just an in-progress PR...

But at least, can you move the x into the `have`, to avoid the first `intro x` line? The same applies for a few more have's below.

**Review by grunweg — COMMENTED** [review]
Two comments with golfing suggestions.

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Pi/Irrational.lean:207]: I think I'd make a slightly different claim, that this is useful enough that we probably already have the result somewhere else.

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+  rw [abs_le]
+  constructor <;>
+  nlinarith
+
+private lemma my_tendsto_pow_div_factorial_at_top (a : ℝ) :
+  Tendsto (fun n => (a : ℝ) ^ (2 * n + 1) / n !) atTop (nhds 0) := by
+  rw [← mul_zero a]
+  refine ((tendsto_pow_div_factorial_atTop (a ^ 2)).const_mul a).congr (fun x => ?_)
+  rw [← pow_mul, mul_div_assoc', _root_.pow_succ']
+
```
Comment (vihdzp) [inline Mathlib/Data/Real/Pi/Irrational.lean:201]: Why does this name start with `my`?

**Comment by vihdzp** [comment]
Question, is this Niven's proof? If so, then that reference should be in the docstring. But also, I'm having a difficult time matching notions between the article and this file. Is this the 1947 article?

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Real/Pi/Irrational.lean]: Thanks, I've cleaned up the `intro`s

**Comment by b-mehta** [comment]
This proof idea came from Question 10 here: https://www.dpmms.cam.ac.uk/study/IA/AnalysisI/2016-2017/sheet4.pdf.

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/Data/Real/Pi/Irrational.lean:201]: it's a private lemma, so I just gave it a convenient name! But more realistically, the point of this lemma is to be a particular variant of `tendsto_pow_div_factorial_atTop` which is most useful for this application

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Data/Real/Pi/Irrational.lean:202]: I just looked again and I can't find anything quite right - `irrational_iff_ne_rational` is probably the one you expected to exist, but that's not close enough here because I want a positive natural denominator.

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 6 above)
Comment (jcommelin) [reply Mathlib/Data/Real/Pi/Irrational.lean:183]: I would still prefer `aux` or `tmp` over `my`.

**Review by jcommelin — COMMENTED** [review]
Please expand the module docstring a bit, as requested.

E.g. the link to wiki mentioned above should be recorded, I think.

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Data/Real/Pi/Irrational.lean]: Yes!

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Real/Pi/Irrational.lean:12]: I added some more detail to the docstring.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
